Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
peanut / sodium fluoride
 
Attending: ___.
 
Chief Complaint:
increased seizure frequency
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The pt is a ___ year-old right-handed man who presents with 
increase in frequency of his typical seizures. He has been on an 
ambulatory EEG for the past 4 days with one event yesterday, 
typical of his short seizures, and another today. He was in the 
passanger seat of their car driving here to get the EEG leads 
off when he went into a tonic-clonic seizure. He says he was in 
and out of conciousness during the event, grunting to try and 
communicate, but doesn't remember the shaking portion. His wife 
states that his right side was shaking more than the left but 
both sides were shaking. No tongue biting, head deviation, or 
incontinence. It lasted less than 5 min but he was tired and out 
of it afterwards and didn't fully come back to his baseline 
until almost an hour afterwards. His last event similar to this 
was ___. 

No recent illnesses, fevers, cough. No recent stressors. He has 
not been sleeping quite as well because of the EEG leads so does 
not feel rested this week. No changes in eating habits. 
Otherwise negative ROS.

Seizure history:
___ years old had his first grand mal seizure and then he had 
recurrences every ___ months for ___ years. He had no warning 
symptoms, bystanders said that he became stiff would go to 
ground and he would wake up on the ground and talk normally but 
would be amnesic for a minute or 2 of the postictal event. He 
was initially on Depakote but without improvement. Then switched 
to trileptal at ___ with no further seizures just continued 
minor seizures. Last large seizure was ___.

Small seizures described as he stares, his mouth drops, 
sometimes he just has speech arrest. He has at least two of 
these events per month. His most recent was earlier today.

Previous EEGs have suggested a left temporal spike focus. 
Imaging
has apparently been negative.

His birth and early development were normal. 

 
Past Medical History:
seizures as above
 
Social History:
___
Family History:
Mother: alive and well
Father: died of prostate cancer
Sister: ___ disability, meningitis as child, and 
seizure disorder
No other family history of seizures
 
Physical Exam:
Physical exam on admission:

Vitals: 98.0 HR97 116/82 20 97% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple
Pulmonary: normal work of breathing, nonlabored
Cardiac: RRR
Abdomen: soft, NT/ND
Extremities: No C/C/E bilaterally.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Speech 
was not dysarthric. Able to follow both midline and appendicular 
commands. The pt had good knowledge of current events. There was 
no evidence of apraxia or
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted. ___ strenght throughout.

-Sensory: No deficits to light touch throughout. No extinction 
to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF bilaterally.
-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  

Exam on discharge:
unchanged from admission
 
Pertinent Results:
Labs:

___ 10:38AM   WBC-7.2 RBC-5.11 HGB-15.9 HCT-46.2 MCV-90 
MCH-31.0 MCHC-34.3 RDW-12.5
___ 10:38AM   NEUTS-66.2 ___ MONOS-6.4 EOS-4.8* 
BASOS-0.6
___ 10:38AM   GLUCOSE-96 UREA N-12 CREAT-1.0 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-26 ANION GAP-17
___ 10:38AM   ALT(SGPT)-32 AST(SGOT)-28 ALK PHOS-85 TOT 
BILI-0.4
___ 10:38AM   ALBUMIN-5.2
___ 10:38AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG

___ 12:20PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 12:20PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG

Keppra 25
Trileptal 12.3

Imaging:

Chest xray: no acute cardiopulmonary process

MRI brain seizure protocol: normal

EEG ___
This is a abnormal continuous video EEG monitoring study due to 
the presence of a single clinical and electrographic seizure on 
the evening of 
___. Localization or even lateralization of onset could not 
be well- 
determined on EEG, but clinically the patient's head turned 
toward the right 
and both arms elevated, with the right arm extended out stiffly, 
followed by 
apparent secondary generalization. Interictally, frequent 
bilateral frontal 
epileptiform discharges were seen, sometimes in periodic runs 
lasting up to 
___ seconds. The background did reach a normal alpha rhythm 
during 
wakefulness. 

EEG ___
This is an abnormal continuous video EEG monitoring study due to 

the presence of frequent generalized, frontally predominant, 
high amplitude 
spike and wave discharges, most often with a left frontal 
predominance. On a 
rare occasion, they appear to begin in the right frontal region. 
The 
discharges are accentuated in sleep. These findings are highly 
suggestive of 
a left frontal epileptogenic focus, with a possibility of a 
second right 
frontal focus. There are no definite electrographic seizures. 
The waking 
background consists of a symmetric ___ Hz posterior dominant 
rhythm with 
superimposed beta activity. 

 
Brief Hospital Course:
___ year-old right-handed man who presented with increase in 
frequency of his typical seizures. Lack of sleep and stress of 
the ambulatory EEG were likely triggers. No infectious concerns 
or concerns of compliance. Infectious work up (CBC, UA, CXR) was 
unremarkable. Keppra level was 25 and Trileptal level 12.3.  As 
trileptal level was on the lower end of therapeutic, dose was 
increased from 900mg bid to ___ on admission.  Keppra 
dose was not changed.  Patient had 2 generalized seizures 
shortly after admission without return to baseline.  (head turn 
to the right, right arm extention, lasted < 1 minute) After ___ 
seizure, he was given Ativan 2mg IV x1.  After the second, he 
was loaded with Dilantin after which he did not have any more 
seizures.  Localization or even lateralization of onset could 
not be well- determined on EEG. Interictally, frequent bilateral 
frontal epileptiform discharges were seen, sometimes in periodic 
runs lasting up to ___.  ECG was obtained which showed 
no conduction abnormalities and Mr. ___ was started on 
lacosamide 100mg bid which he tolerated well, and Dilantin was 
discontinued (he has not tolerated it well long term in the 
past).  On discharge, it was increased to 150mg bid.  He did not 
have any more seizures after the night of admission.  MRI brain 
seizure protocol was normal.  He will follow up with Dr. ___ 
in neurology clinic.

AEDs on discharge: Keppra 1000mg bid, Trileptal 900mg/1200mg, 
Lacosamide 150mg bid
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Oxcarbazepine 900 mg PO BID 
2. LeVETiracetam ___ mg PO BID 

 
Discharge Medications:
1. LeVETiracetam ___ mg PO BID 
2. Oxcarbazepine 900 mg PO QAM 
RX *oxcarbazepine 300 mg as instructed tablet(s) by mouth twice 
a day Disp #*210 Tablet Refills:*0
3. Oxcarbazepine 1200 mg PO QPM 
4. LACOSamide 150 mg PO BID 
RX *lacosamide [Vimpat] 150 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
RX *lacosamide [Vimpat] 150 mg 1 tablet(s) by mouth twice a day 
Disp #*2 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
epilepsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you had seizures which 
progressed to generalized seizures.  We obtained an MRI scan 
which on our read appeared stable. We increased your 
oxcarbazepine dose from 900 mg twice a day to 900 mg in the 
morning and 1200 mg in the evening. We also started you on a new 
medication, vimpat. We are providing you the first two doses; 
you should pick up the rest of the prescription from your home 
___ tomorrow. You should bring the paper prescription with you 
to pick up this medication. They anticipate that it will be 
ready after noon.

Keep in mind that sleep deprivation can help to provoke your 
seizures. In addition to taking these medications you should try 
to get a full night's rest every day. We checked levels of your 
anti-epileptic medications when you arrived to determine if you 
are on the correct dose. You will follow up with those results 
in Neurology clinic.

It was a pleasure taking care of you during this 
hospitalization.
 
Followup Instructions:
___